US07687490B2
e) 4-Hydroxymethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole
A solution of 2.73 g of 5-ethynyl-4-hydroxymethylthiazole in 65 ml of THF was cooled in ice under an argon atmosphere, and 6.5 g of triphenylmethane thiol and 440 mg of potassium-t-butoxide were added to the cooled solution. The mixture was stirred at room temperature for 2 hr. Brine was added to the reaction solution, and the mixture was extracted twice with ethyl acetate. The organic layers were combined, were washed with brine, were then dried over anhydrous magnesium sulfate, were filtered, and were concentrated under the reduced pressure. Ethyl acetate (10 ml) and 10 ml of hexane were added to the residue, and the resultant precipitate was collected by filtration to give 7.26 of the title compound.

reactant | 5-ethynyl-4-hydroxymethylthiazole | 2.73 g | C(#C)C1=C(N=CS1)CO | C6H5NOS
reactant | triphenylmethane thiol | 6.5 g | C1(=CC=CC=C1)C(S)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16S
reactant | potassium-t-butoxide | 440 mg | CC(C)([O-])C.[K+]
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-Hydroxymethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | OCC=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS2
